US07423043B2
In a dry microwave vessel with stir bar, 3-bromoaniline (316 μL, 0.029 mol) and 4-flourophenol (716 mg, 0.064 mol) were added to anhydrous pyridine (10 mL) under nitrogen. To this was added potassium carbonate (1.6 g, 120 mol) and copper(II) oxide (1.2 g, 145 mol). The microwave vessel was sealed then heated in the microwave at normal absorbance at 210° C. for 40 min. The cooled reaction was filtered through a bed of Celite with ethyl acetate. The filtrate was then washed 3 times with concentrated aqueous NaHSO4 and twice with concentrated aqueous NaCl. The organic layer was then dried over magnesium sulfate, filtered and concentrated. Purification over silica using an eluent of hexane and ethyl acetate with a gradient of 0-23% ethyl acetate over 45 min gave 3-(4-fluoro-phenoxy)-phenylamine.

reactant | 3-bromoaniline | 0.029 mol, 316 μL | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 4-flourophenol | 0.064 mol, 716 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium carbonate | 120 mol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(II) oxide | 145 mol, 1.2 g | [Cu]=O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-fluoro-phenoxy)-phenylamine | FC1=CC=C(OC=2C=C(C=CC2)N)C=C1 | C12H10FNO
